US08497264B2
TEA (1.263 ml, 9.06 mmol) and triiodophosphine (1.243 g, 3.02 mmol) were added to 7-bromo-3-chloro-5-((1-cyclohexyl-2-nitroethoxy)methyl)-5H-chromeno[2,3-c]pyridin-5-amine (1.5 g, 3.02 mmol) in DCM (30.2 ml) at 0° C. The reaction was stirred 10 minutes before the ice water bath was removed and the reaction was allowed to come to RT. After 1.5 hours, the solution is cooled to 0° C. and quenched with saturated aqueous sodium bicarbonate, diluted with water, and extracted with DCM. The combined organic extracts were washed with 1N NaOH, water, saturated aqueous NaCl, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was purified by silica gel chromatography by eluting with 1:4 EtOAc in hexane, to provide 2-((5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methoxy)-2-cyclohexylacetonitrile, [M+H]=462.0.

reactant | triiodophosphine | 3.02 mmol, 1.243 g | IP(I)I | I3P
reactant | 7-bromo-3-chloro-5-((1-cyclohexyl-2-nitroethoxy)methyl)-5H-chromeno[2,3-c]pyridin-5-amine | 3.02 mmol, 1.5 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(N)COC(C[N+](=O)[O-])C1CCCCC1 | C21H23BrClN3O4
solvent | DCM | 30.2 ml | C(Cl)Cl | CH2Cl2
product | 2-((5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methoxy)-2-cyclohexylacetonitrile | NC1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)COC(C#N)C2CCCCC2 | C21H21BrClN3O2
